US04046563
Preparation of 1-dicyanovinylpyrene
About 100 grams (0.434 moles) pyrene-1-carboxaldehyde, about 28.7 grams (0.434 moles) malononitrile, about 10.4 milliliters acetic acid, about 3.48 grams ammonium acetate and about 400 milliliters benzene are heated to boiling under reflux conditions for 30 minutes. The entire contents of the flask crystallized, forming a deep orange red product which is soluble in -tetrahydrofuran, moderately soluble in ethanol and very soluble in chlorobenzene. This product is recrystallized from a mixture of chlorobenzene and ethanol (30:70). Yield: 104.4 grams m. p 248°-250° C.

reactant | pyrene-1-carboxaldehyde | 0.434 moles, 100 grams | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)C=O | C17H10O
reactant | malononitrile | 0.434 moles, about 28.7 grams | C(CC#N)#N | C3H2N2
reactant | acetic acid | about 10.4 milliliters | C(C)(=O)O | C2H4O2
reactant | ammonium acetate | about 3.48 grams | C(C)(=O)[O-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | benzene | about 400 milliliters | C1=CC=CC=C1 | C6H6
product | 1-dicyanovinylpyrene | C(#N)C(=CC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)C#N | C20H10N2
